US06350760B1
Step A: Ethyl 1-BOC4-(4-hydroxy-4-tetrahydropyranyl)-4-piperidinecarboxylate
To a solution of ethyl N-Boc-4-piperidinecarboxylate (2.57 gm; 10.0 mmol) in 100 mL of dry THF was added 6.0 mL (2.0 M) of LDA at −78° C. The mixture was stirred at −78° C. for half hour, and then a solution of tetrahydro-4H-pyran-4-one (2.0 gm; 20.0 mmol) in 5.0 mL dry THF was added thereto. The resultant mixture was stirred at −78° C. for two hours and then warmed up to room temperature and kept for overnight. Saturated ammonium chloride (200 mL) was added and the aqueous layer was extracted with ethyl acetate (3×150 mL). The organic layer was washed with brine and dried over magnesium sulfate, filtered and then concentrated. The crude product was purified by flash chromatography (hexane/ethyl acetate 2:1) to give 1.47 gm of the desired product.

reactant | ethyl N-Boc-4-piperidinecarboxylate | 10.0 mmol, 2.57 gm | C(=O)(OC(C)(C)C)N1CCC(CC1)C(=O)OCC | C13H23NO4
reactant | LDA | 2.0 M, 6.0 mL | [Li+].CC(C)[N-]C(C)C
reactant | tetrahydro-4H-pyran-4-one | 20.0 mmol, 2.0 gm | O1CCC(CC1)=O | C5H8O2
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | Ethyl 1-BOC4-(4-hydroxy-4-tetrahydropyranyl)-4-piperidinecarboxylate | 1.47 gm | C(=O)(OC(C)(C)C)N1CCC(CC1)(C(=O)OCC)C1(CCOCC1)O | C18H31NO6
